US08471005B2
Into a 1-neck round-bottom flask, Potassium nitrate (1.71 g, 16.9 mmol) and Acetonitrile (40 mL, 800 mmol) were added and cooled with ice bath. Trifluoroacetic anhydride (8.89 g, 42.3 mmol) was added portionwise over 5 minutes. The mixture was stirred for 10 minutes. 1-(3-Methoxy-phenyl)-cyclobutylamine (2.50 g, 14.1 mmol) in ACN (10 mL) was added via a syringe. The reaction was stirred for 3 hours at room temperature. Saturated Na2CO3 was added portionwise to adjust the pH to 8. The reaction was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with Hexane and EtOAc as eluant (0 to 10% methanol). The collected fractions afforded 2,2,2-Trifluoro-N-[1-(3-methoxy-4-nitro-phenyl)-cyclobutyl]-acetamide as a white solid (1.20 g, 26%).

reactant | Potassium nitrate | 16.9 mmol, 1.71 g | [N+](=O)([O-])[O-].[K+]
reactant | Trifluoroacetic anhydride | 42.3 mmol, 8.89 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-(3-Methoxy-phenyl)-cyclobutylamine | 14.1 mmol, 2.50 g | COC=1C=C(C=CC1)C1(CCC1)N | C11H15NO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ACN | 10 mL | C(C)#N | C2H3N
solvent | Acetonitrile | 800 mmol, 40 mL | C(C)#N | C2H3N
product | 2,2,2-Trifluoro-N-[1-(3-methoxy-4-nitro-phenyl)-cyclobutyl]-acetamide | 1.20 g, 26% | FC(C(=O)NC1(CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC)(F)F | C13H13F3N2O4
